US08685969B2
3. Benzyl 3-cyano-2-methylphenylcarbamate
A mixture of 3-amino-2-methylbenzonitrile (4.32 g, 32.7 mmol), benzyl carbonochloridate (7.26 mL, 49.0 mmol), and potassium carbonate (6.78 g, 79.0 mmol) in tetrahydrofuran (280 mL) was stirred at room temperature for 3 days. The insoluble material was removed by filtration, and the filtrate was concentrated under vacuum. The residue was diluted with ethyl acetate (250 mL), washed with 1N HCl solution (60 mL), water (60 mL), and brine (60 mL). The organic solution was dried over anhydrous MgSO4, and the solution was concentrated under vacuum to dryness. The residue was stirred with hexane (100 mL) at room temperature for 1 hr. The insoluble product (6.41 g, 24.07 mmol, 73.6% yield) was collected as a white solid by suction filtration.

reactant | 3-amino-2-methylbenzonitrile | 32.7 mmol, 4.32 g | NC=1C(=C(C#N)C=CC1)C | C8H8N2
reactant | benzyl carbonochloridate | 49.0 mmol, 7.26 mL | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | potassium carbonate | 79.0 mmol, 6.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 280 mL | O1CCCC1 | C4H8O
product | Benzyl 3-cyano-2-methylphenylcarbamate | 24.07 mmol, 6.41 g, 73.6% yield | C(#N)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C16H14N2O2
